US08580957B2
A flask was charged with methyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate (0.355 g, 1.354 mmol), 1-methylethyl[(2S,4R)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinyl]carbamate (for a preparation see Intermediate 100) (0.5 g, 1.354 mmol), a saturated NaHCO3 aqueous solution (1.5 mL, 1.354 mmol) and PdCl2(dppf)-CH2Cl2 adduct (0.111 g, 0.135 mmol) then filled with 1,4-dioxane (7 mL) and the resulting mixture was degassed by bubbling nitrogen into it then stirred at 100° C. for 1 h under microwave irradiation before being cooled to room temperature, filtered through celite and concentrated in vacuo. The residue was partioned between EtOAC (30 mL) and water (30 mL) and the layers were separated. The organic phase was washed with brine (30 mL), dried under MgSO4 and concentrated in vacuo. Purification of the residue on Sp4 using a 50 G silica cartridge (gradient:20 to 80% AcOEt in Hexanes) gave methyl 3-[(2S,4R)-1-acetyl-2-methyl-4-({[(1-methylethyl)oxy]carbonyl}amino)-1,2,3,4-tetrahydro-6-quinolinyl]benzoate (319 mg, 55%).

reactant | methyl 3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzoate | 1.354 mmol, 0.355 g | CC1(OB(OC1(C)C)C=1C=C(C(=O)OC)C=CC1)C | C14H19BO4
reactant | 1-methylethyl[(2S,4R)-1-acetyl-6-bromo-2-methyl-1,2,3,4-tetrahydro-4-quinolinyl]carbamate | CC(C)OC(N[C@@H]1C[C@@H](N(C2=CC=C(C=C12)Br)C(C)=O)C)=O | C16H21BrN2O3
reactant | NaHCO3 | 1.354 mmol, 1.5 mL | C(=O)(O)[O-].[Na+]
catalyst | PdCl2(dppf) CH2Cl2 | 0.135 mmol, 0.111 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | methyl 3-[(2S,4R)-1-acetyl-2-methyl-4-({[(1-methylethyl)oxy]carbonyl}amino)-1,2,3,4-tetrahydro-6-quinolinyl]benzoate | 319 mg, 55% | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C=1C=C(C(=O)OC)C=CC1)NC(=O)OC(C)C)C | C24H28N2O5
